US05153227
Nitromethane (12.0 g, 100 mmol) was added dropwise to a stirred solution of potassium t-butoxide (20 g, 178 mmol) in dry DMF (200 ml), the temperature being controlled at 0°-5° C. by external cooling. After addition was complete the mixture was stirred for an additional 30 minutes at 0°-5° C. Sodium 4-iodobenzenesulphinate (29.0 g, 100 mmol) was then added, followed by iodine (22.8 g, 90 mmol). The mixture was stirred at ambient temperature for 2 hours and then poured into water (3 liters). A concentrated solution of aqueous sodium sulphite was added to partially decolourise the reaction mixture, which was then acidified with 2M hydrochloric acid. The precipitated solid was collected by filtration, washed with water and then recrystallised 4 times from ethanol to give (4-iodophenylsulphonyl)nitromethane as a crystalline solid (0.8 g), m.p. 177°-179° C., microanalysis, found C, 25.56; H, 1.83; N, 4.18% C 7 H6INO4S requires: C, 25.70; H, 1.85; N 4.30%.

reactant | Nitromethane | 100 mmol, 12.0 g | [N+](=O)([O-])C | CH3NO2
reactant | potassium t-butoxide | 178 mmol, 20 g | CC(C)([O-])C.[K+]
reactant | Sodium 4-iodobenzenesulphinate | 100 mmol, 29.0 g | IC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | iodine | 90 mmol, 22.8 g | II | I2
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | 3 liters | O | H2O
product | (4-iodophenylsulphonyl)nitromethane | 0.8 g | IC1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C7H6INO4S
